US07842688B2
d) tert-Butyl 3-(2-bromo-4-methylbenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 1.45 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.80 g of 2-bromo-1-chloromethyl-4-methylbenzene are used to obtain the title compound as a slightly yellowish oil. Rf=0.56 (1:1 EtOAc-heptane); Rt=6.53.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 1.45 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 2-bromo-1-chloromethyl-4-methylbenzene | 0.80 g | BrC1=C(C=CC(=C1)C)CCl | C8H8BrCl
product | tert-Butyl 3-(2-bromo-4-methylbenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | BrC1=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC(=C1)C | C35H44BrNO6
